US06503949B1
Step C: Resin Bound 3-{4-[(4-propylcyclohexylamino)methyl]benzoylamino}propionic Acid
The resulting resin bound 3-(4-aminomethylbenzoylamino)propionic acid was treated with 98 mg 4-propylcyclohexanone (700 μmol) dissolved in 500 μL 1,2-dichloroethane, 50 μL acetic acid and a slurry of 148 mg NaBH(OAc)3 (700 μmol) in 1 mL 1,2-dichloroethane. Over night shaking at 25° C. followed by filtration and washing with 2×1 mL dichloromethane, 2×1 mL CH3OH:DMF 1:1 and 3×1 mL DMF afforded resin bound 3-{4-[(4-propylcyclohexylamino)-methyl]benzoylamino}propionic acid.

reactant | 3-(4-aminomethylbenzoylamino)propionic acid | NCC1=CC=C(C(=O)NCCC(=O)O)C=C1 | C11H14N2O3
reactant | 4-propylcyclohexanone | 700 μmol, 98 mg | C(CC)C1CCC(CC1)=O | C9H16O
reactant | acetic acid | 50 μL | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 700 μmol, 148 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | 1,2-dichloroethane | 500 μL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 1 mL | ClCCCl | C2H4Cl2
product | 3-{4-[(4-propylcyclohexylamino)methyl]benzoylamino}propionic Acid | C(CC)C1CCC(CC1)NCC1=CC=C(C(=O)NCCC(=O)O)C=C1 | C20H30N2O3
